### PR TITLE
[Merged by Bors] - feat(NumberTheory/ModularForms): the Dedekind Eta function

### PR DESCRIPTION
**Pull request by CBirkbeck**
We define the Dedekind eta function in preparation for later relating it to Eisenstein series and the modular form Delta.

---

- [x] depends on: #28756 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 1]
```diff
@@ -0,0 +1,143 @@
...
+
+open scoped Interval Real NNReal ENNReal Topology BigOperators Nat
+
+local notation "𝕢" => Periodic.qParam
+
+local notation "ℍₒ" => complexUpperHalfPlane
+
+/-- The q term inside the product defining the eta function. It is defined as
+`eta_q n z = e ^ (2 π i (n + 1) z)`. -/
+noncomputable abbrev eta_q (n : ℕ) (z : ℂ) := (𝕢 1 z) ^ (n + 1)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean:40]: This should be in some namespace (maybe `ModularForm.eta_q`) to avoid cluttering the global namespace (& ditto `etaProdTerm`)

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 2]
```diff
@@ -0,0 +1,143 @@
...
+
+lemma eta_q_eq_cexp (n : ℕ) (z : ℂ) : eta_q n z = cexp (2 * π * Complex.I * (n + 1) * z) := by
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]: `Complex` is open, so we don't need `Complex.I`

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 3]
```diff
@@ -0,0 +1,143 @@
...
+  simp [eta_q, Periodic.qParam, ← Complex.exp_nsmul]
+  ring_nf
+
+lemma eta_q_eq_pow (n : ℕ) (z : ℂ) : eta_q n z = cexp (2 * π * Complex.I * z) ^ (n + 1) := by
+  simp [eta_q, Periodic.qParam]
+
+lemma one_add_eta_q_ne_zero (n : ℕ) (z : ℍ) : 1 - eta_q n z ≠ 0 := by
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]: `one_sub`?

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 4]
```diff
@@ -0,0 +1,143 @@
...
+  rw [eta_q_eq_cexp, sub_ne_zero]
+  intro h
+  have := norm_exp_two_pi_I_lt_one ⟨(n + 1) • z, by
+    have : 0 < (n + 1 : ℝ) := by linarith
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]: `positivity` is faster than `linarith` and should handle this goal

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 5]
```diff
@@ -0,0 +1,143 @@
...
+local notation "ηₚ" => etaProdTerm
+
+/-- The eta function, whose value at z is `q^ 1 / 24 * ∏' 1 - q ^ (n + 1)` for `q = e ^ 2 π i z`. -/
+noncomputable def ModularForm.eta (z : ℂ) := 𝕢 24 z * ηₚ z
+
+local notation "η" => ModularForm.eta
+
+open ModularForm
+
+theorem Summable_eta_q (z : ℍ) : Summable fun n ↦ ‖-eta_q n z‖ := by
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]: lowercase `summable`
```suggestion
theorem summable_eta_q (z : ℍ) : Summable fun n ↦ ‖-eta_q n z‖ := by
```

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 6]
```diff
@@ -0,0 +1,143 @@
...
+  simp [eta_q, eta_q_eq_pow, summable_nat_add_iff 1, norm_exp_two_pi_I_lt_one z]
+
+lemma hasProdLocallyUniformlyOn_eta : HasProdLocallyUniformlyOn (fun n a ↦ 1 - eta_q n a) ηₚ ℍₒ:= by
+  simp_rw [sub_eq_add_neg]
+  apply hasProdLocallyUniformlyOn_of_forall_compact complexUpperHalPlane_isOpen
+  intro K hK hcK
+  by_cases hN : K.Nonempty
+  · have hc : ContinuousOn (fun x ↦ ‖cexp (2 * π * Complex.I * x)‖) K := by fun_prop
+    obtain ⟨z, hz, hB, HB⟩ := hcK.exists_sSup_image_eq_and_ge hN hc
+    apply (Summable_eta_q ⟨z, by simpa using (hK hz)⟩).hasProdUniformlyOn_nat_one_add hcK
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]:
```suggestion
    apply (Summable_eta_q ⟨z, by simpa using hK hz⟩).hasProdUniformlyOn_nat_one_add hcK
```
(or just `⟨z, hK hz⟩`, if it works, which it might)

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 7]
```diff
@@ -0,0 +1,143 @@
...
+    · filter_upwards with n x hx
+      simpa only [eta_q, eta_q_eq_pow n x, norm_neg, norm_pow, coe_mk_subtype,
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]: this is terminal simpa so doesn't have to be squeezed

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 8]
```diff
@@ -0,0 +1,143 @@
...
+
+theorem etaProdTerm_ne_zero (z : ℍ) : ηₚ z ≠ 0 := by
+  simp only [etaProdTerm, eta_q, ne_eq]
+  refine tprod_one_add_ne_zero_of_summable z (f := fun n x ↦ -eta_q n x) ?_ ?_
+  · refine fun i x ↦ by simpa using one_add_eta_q_ne_zero i x
+  · intro x
+    simpa [eta_q, ← summable_norm_iff] using Summable_eta_q x
+
+/-- Eta is non-vanishing on the upper half plane. -/
+lemma eta_ne_zero_on_UpperHalfPlane (z : ℍ) : η z ≠ 0 := by
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]: Here the subset, not the subtype, is appropriate since `η` was defined as a function on `ℂ` (& same in preceding lemma and various other places in this PR)

File: Mathlib/Analysis/Complex/UpperHalfPlane/Basic.lean [hunk 9]
```diff
@@ -203,5 +203,16 @@ theorem vadd_im : (x +ᵥ z).im = z.im :=
   zero_add _
 
 end RealAddAction
+section complexUpperHalfPlane
+
+/-- The UpperHalfPlane as a subset of `ℂ`. This is convinient for takind derivatives of functions
+on the upper half plane. -/
+abbrev complexUpperHalfPlane := {z : ℂ | 0 < z.im}
```
Comment (loefflerd) [inline Mathlib/Analysis/Complex/UpperHalfPlane/Basic.lean]: I don't like the name, it would be better to make clear what's different between this and `ℍ`. Perhaps `upperHalfPlaneSet`?

**Review by loefflerd — COMMENTED** [review]
Here are a few quick thoughts (have to go get lunch now).

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean (hunk 2 above)
Comment (CBirkbeck) [reply Mathlib/NumberTheory/ModularForms/DedekindEta.lean]: unfortunately, since UpperHalfPlane is also open (which also has an I) it creates a problem. Maybe the UpperHalfPlane I should be called something else, but that can be done in another PR I guess

Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/DedekindEta.lean]: If you don't need `UpperHalfPlane.I` in this PR, then you can always do `open UpperHalfPlane hiding I`.

File: Mathlib/Analysis/Complex/Periodic.lean [hunk 10]
```diff
@@ -72,6 +72,16 @@ theorem norm_qParam_lt_iff (hh : 0 < h) (A : ℝ) (z : ℂ) :
...
   simpa using Real.pi_pos
 
+@[fun_prop]
+lemma qParam_differentiable (n : ℝ) : Differentiable ℂ (𝕢 n) := by
+    rw [show 𝕢 n = fun x => exp (2 * π * Complex.I * x / n)  by rfl]
+    fun_prop
+
+@[fun_prop]
+lemma qParam_ContDiff (n : ℝ) (m : WithTop ℕ∞) : ContDiff ℂ m (𝕢 n) := by
+    rw [show 𝕢 n = fun x => exp (2 * π * Complex.I * x / n)  by rfl]
```
Comment (loefflerd) [inline Mathlib/Analysis/Complex/Periodic.lean]: I think `continuous_qParam` and `contDiff_qParam` are the standard naming formats here. Does `unfold qParam` work instead of the `rw [show ...]`? (Edit: it does.)

File: Mathlib/Analysis/Complex/UpperHalfPlane/Basic.lean [hunk 11]
```diff
@@ -203,5 +203,16 @@ theorem vadd_im : (x +ᵥ z).im = z.im :=
   zero_add _
 
 end RealAddAction
+section upperHalfPlaneSet
+
+/-- The UpperHalfPlane as a subset of `ℂ`. This is convinient for taking derivatives of functions
```
Comment (loefflerd) [inline Mathlib/Analysis/Complex/UpperHalfPlane/Basic.lean]: minor typos:
```suggestion
/-- The upper half plane as a subset of `ℂ`. This is convenient for taking derivatives of functions
```

File: Mathlib/Analysis/Complex/UpperHalfPlane/Basic.lean [hunk 12]
```diff
@@ -203,5 +203,16 @@ theorem vadd_im : (x +ᵥ z).im = z.im :=
...
+on the upper half plane. -/
+abbrev upperHalfPlaneSet := {z : ℂ | 0 < z.im}
+
+local notation "ℍₒ" => upperHalfPlaneSet
+
+lemma upperHalfPlaneSet_isOpen : IsOpen ℍₒ := (isOpen_lt continuous_const Complex.continuous_im)
```
Comment (loefflerd) [inline Mathlib/Analysis/Complex/UpperHalfPlane/Basic.lean]: If we add this lemma we should also use it in the places where this proof (or variants) exist in the library. There are 2 uses of `isOpen_lt continuous_const Complex.continuous_im` (& another without the `Complex.` prefix), and 5 more with the alternative spelling `continuous_im.isOpen_preimage _ isOpen_Ioi`. These can all be replaced with `upperHalfPlaneSet_isOpen`. (I also think the name should be `isOpen_upperHalfPlaneSet`.)

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean (hunk 2 above)
Comment (CBirkbeck) [reply Mathlib/NumberTheory/ModularForms/DedekindEta.lean]: Oh I didn't know that was possible! That's handy, thanks.

File: Mathlib/Analysis/SpecialFunctions/Log/Summable.lean [hunk 13]
```diff
@@ -42,6 +42,14 @@ lemma summable_log_one_add_of_summable {f : ι → ℂ} (hf : Summable f) :
   filter_upwards [hf.norm.tendsto_cofinite_zero.eventually_le_const one_half_pos] with i hi
     using norm_log_one_add_half_le_self hi
 
+lemma tprod_one_add_ne_zero_of_summable {α : Type*} (x : α) {f : ι → α → ℂ}
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Log/Summable.lean]: Is this lemma true for more general targets than `ℂ`? It should be true for any normed field target, I think, using `norm_tprod` and the argument below applied in `ℝ` to the product of norms. (One might hope for more generality still, but that can come in another PR.)

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 14]
```diff
@@ -0,0 +1,146 @@
...
+theorem etaProdTerm_ne_zero {z : ℂ} (hz : z ∈ ℍₒ) : ηₚ z ≠ 0 := by
+  simp only [etaProdTerm, eta_q, ne_eq]
+  refine tprod_one_add_ne_zero_of_summable ⟨z, hz⟩ (f := fun n x ↦ -eta_q n x) (α := ℍₒ) ?_ ?_
+  · refine fun i x ↦ by simpa using one_sub_eta_q_ne_zero i x.2
+  · intro x
+    simpa [eta_q, ← summable_norm_iff] using summable_eta_q x
+
+/-- Eta is non-vanishing on the upper half plane. -/
+lemma eta_ne_zero_on_UpperHalfPlane {z : ℂ} (hz : z ∈ ℍₒ) : η z ≠ 0 := by
+  simpa [ModularForm.eta, Periodic.qParam] using etaProdTerm_ne_zero hz
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]: You can scrunch these together:
```suggestion
/-- Eta is non-vanishing on the upper half plane. -/
lemma eta_ne_zero_on_UpperHalfPlane {z : ℂ} (hz : z ∈ ℍₒ) : η z ≠ 0 := by
  apply mul_ne_zero (by simp [Periodic.qParam])
  simp only [etaProdTerm, eta_q, ne_eq]
  refine tprod_one_add_ne_zero_of_summable ⟨z, hz⟩ (f := fun n x ↦ -eta_q n x) (α := ℍ) ?_ ?_
  · refine fun i x ↦ by simpa using one_sub_eta_q_ne_zero i x.2
  · intro x
    simpa [eta_q, ← summable_norm_iff] using summable_eta_q x
```
We should also maybe have a lemma `Periodic.qParam_ne_zero`.

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 15]
```diff
@@ -0,0 +1,146 @@
...
+  have hD := hasProdLocallyUniformlyOn_eta.tendstoLocallyUniformlyOn_finsetRange.differentiableOn ?_
+    upperHalfPlaneSet_isOpen
+  · exact (hD z hz).differentiableAt (upperHalfPlaneSet_isOpen.mem_nhds hz)
+  · filter_upwards with b y
+    apply (DifferentiableOn.finset_prod (u := Finset.range b) (f := fun i x ↦ 1 - eta_q i x)
+      (by fun_prop)).congr
+    simp
+
+lemma eta_DifferentiableAt_UpperHalfPlane {z : ℂ} (hz : z ∈ ℍₒ) : DifferentiableAt ℂ eta z :=
+  DifferentiableAt.mul (by fun_prop) (etaProdTerm_differentiableAt hz)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]: These can also be scrunched:
```suggestion
theorem differentiableAt_eta_of_mem_upperHalfPlaneSet {z : ℂ} (hz : z ∈ ℍₒ) : 
    DifferentiableAt ℂ eta z := by
  apply DifferentiableAt.mul (by fun_prop)
  have hD := hasProdLocallyUniformlyOn_eta.tendstoLocallyUniformlyOn_finsetRange.differentiableOn ?_
      upperHalfPlaneSet_isOpen
  · exact (hD z hz).differentiableAt (upperHalfPlaneSet_isOpen.mem_nhds hz)
  · filter_upwards with b y
    apply (DifferentiableOn.finset_prod (u := Finset.range b) (f := fun i x ↦ 1 - eta_q i x)
      (by fun_prop)).congr
    simp
```

**Review by loefflerd — COMMENTED** [review]
My main remark on `DedekindEta.lean` is that I am not sure if `etaProdTerm` is interesting enough in itself to have a name, a custom notation & a bunch of lemmas for it. Unless this is needed further downstream, I suggest just doing the differentiability, etc, for `eta` in one step – I've suggested how to do this – and removing the separate definition of `etaProdTerm`.

File: Mathlib/Analysis/SpecialFunctions/Log/Summable.lean (hunk 13 above)
Comment (CBirkbeck) [reply Mathlib/Analysis/SpecialFunctions/Log/Summable.lean]: So there's this 
```
lemma tprod_one_add_ne_zero_of_summable2 {α 𝕜 : Type*} [NontriviallyNormedField 𝕜] [CompleteSpace 𝕜]
    (x : α) {f : ι → α → 𝕜}
    (hf : ∀ i x, 1 + f i x ≠ 0) (hu : ∀ x : α, Summable fun n => ‖f n x‖)
    (hu2 : ∀ x : α, Summable fun i ↦ Real.log ‖1 + f i x‖) :
    (∏' i : ι, (1 + f i) x) ≠ 0 := by
  rw [← norm_ne_zero_iff, Multipliable.norm_tprod ]
  · simp only [Pi.add_apply, Pi.one_apply, ne_eq]
    rw [← Real.rexp_tsum_eq_tprod (f := fun n => (‖1 + f n x‖)) (by intro i; simp [hf i x]) (hu2 x)]
    · simp [Real.exp_ne_zero]
  · exact multipliable_one_add_of_summable (hu x)
```

But I don't see an easy way to get hu2 from hu. Is this possible or even true?

**Comment by CBirkbeck** [comment]
> My main remark on `DedekindEta.lean` is that I am not sure if `etaProdTerm` is interesting enough in itself to have a name, a custom notation & a bunch of lemmas for it. Unless this is needed further downstream, I suggest just doing the differentiability, etc, for `eta` in one step – I've suggested how to do this – and removing the separate definition of `etaProdTerm`.

Sure thats fine. Later on when proving that delta is bounded at infinity one needs to prove some things about this product term, but its likely not worth the duplication resulting from having the `etaProdTerm`, so I'm happy to remove it.

File: Mathlib/Analysis/Complex/Periodic.lean [hunk 16]
```diff
@@ -72,6 +72,19 @@ theorem norm_qParam_lt_iff (hh : 0 < h) (A : ℝ) (z : ℂ) :
   rw [norm_qParam, Real.exp_lt_exp, div_lt_div_iff_of_pos_right hh, mul_lt_mul_left_of_neg]
   simpa using Real.pi_pos
 
+lemma qParam_ne_zero (z : ℂ) : 𝕢 h z ≠ 0 := by
+  simp [qParam, exp_ne_zero]
+
+@[fun_prop]
+lemma differentiable_qParam (n : ℝ) : Differentiable ℂ (𝕢 n) := by
```
Comment (loefflerd) [inline Mathlib/Analysis/Complex/Periodic.lean]: we can reuse existing variables:
```suggestion
lemma differentiable_qParam : Differentiable ℂ (𝕢 h) := by
```

File: Mathlib/Analysis/Complex/Periodic.lean [hunk 17]
```diff
@@ -72,6 +72,19 @@ theorem norm_qParam_lt_iff (hh : 0 < h) (A : ℝ) (z : ℂ) :
...
+    unfold qParam
+    fun_prop
+
+@[fun_prop]
+lemma contDiff_qParam (n : ℝ) (m : WithTop ℕ∞) : ContDiff ℂ m (𝕢 n) := by
```
Comment (loefflerd) [inline Mathlib/Analysis/Complex/Periodic.lean]:
```suggestion
lemma contDiff_qParam (m : WithTop ℕ∞) : ContDiff ℂ m (𝕢 h) := by
```

File: Mathlib/Analysis/Complex/UpperHalfPlane/Basic.lean [hunk 18]
```diff
@@ -203,5 +203,16 @@ theorem vadd_im : (x +ᵥ z).im = z.im :=
...
 end RealAddAction
+section upperHalfPlaneSet
+
+/-- The upper half plane as a subset of `ℂ`. This is convenient for taking derivatives of functions
+on the upper half plane. -/
+abbrev upperHalfPlaneSet := {z : ℂ | 0 < z.im}
+
+local notation "ℍₒ" => upperHalfPlaneSet
+
+lemma isOpen_upperHalfPlaneSet : IsOpen ℍₒ := (isOpen_lt continuous_const Complex.continuous_im)
```
Comment (loefflerd) [inline Mathlib/Analysis/Complex/UpperHalfPlane/Basic.lean]:
```suggestion
lemma isOpen_upperHalfPlaneSet : IsOpen ℍₒ := isOpen_lt continuous_const Complex.continuous_im
```

File: Mathlib/Analysis/SpecialFunctions/Log/Summable.lean (hunk 13 above)
Comment (loefflerd) [reply Mathlib/Analysis/SpecialFunctions/Log/Summable.lean]:
```

lemma tprod_one_add_ne_zero_of_summable2 {α 𝕜 : Type*} [NontriviallyNormedField 𝕜] [CompleteSpace 𝕜]
    (x : α) {f : ι → α → 𝕜}
    (hf : ∀ i x, 1 + f i x ≠ 0) (hu : ∀ x : α, Summable fun n => ‖f n x‖) :
    (∏' i : ι, (1 + f i) x) ≠ 0 := by
  let a (i : ι) (x : α) := ‖1 + f i x‖ - 1
  have aux1 : ∀ x : α, Summable (a · x) := by
    intro x
    apply Summable.of_norm
    apply (hu x).of_nonneg_of_le
    · intro i
      positivity
    · unfold a
      intro i
      rw [Real.norm_eq_abs, abs_le]
      constructor
      · simpa [le_sub_iff_add_le, neg_add_eq_sub] using norm_add_le (1 + f i x) (-f i x)
      · rw [sub_le_iff_le_add, ← norm_one (α := 𝕜), add_comm]
        exact norm_add_le (f i x) 1
  have aux2 (x : α) := Real.summable_log_one_add_of_summable (aux1 x)
  have hu2 : ∀ x : α, Summable fun i ↦ Real.log ‖1 + f i x‖ := by
    intro x
    convert aux2 x with i
    unfold a
    ring
  rw [← norm_ne_zero_iff, Multipliable.norm_tprod ]
  · simp only [Pi.add_apply, Pi.one_apply, ne_eq]
    rw [← Real.rexp_tsum_eq_tprod (f := fun n => (‖1 + f n x‖)) (by intro i; simp [hf i x]) (hu2 x)]
    · simp [Real.exp_ne_zero]
  · exact multipliable_one_add_of_summable (hu x)
```
(that's the best I can do in 20 minutes during the conference lunch-break). BTW, the conclusion of this lemma is for a single fixed x, right? So you may as well just get rid of the x-variable and make it a lemma about `f : ι → 𝕜`.

Comment (CBirkbeck) [reply Mathlib/Analysis/SpecialFunctions/Log/Summable.lean]: Oh very nice thank you!

File: Mathlib/Analysis/SpecialFunctions/Log/Summable.lean [hunk 19]
```diff
@@ -173,4 +173,29 @@ lemma multipliable_one_add_of_summable [CompleteSpace R]
...
+  apply (Real.summable_log_one_add_of_summable aux1).congr
+  simp [g]
+
+lemma tprod_one_add_ne_zero_of_summable [CompleteSpace 𝕜] {f : ι → 𝕜} (hf : ∀ i, 1 + f i ≠ 0)
+    (hu : Summable fun n => ‖f n‖) : (∏' i : ι, (1 + f i)) ≠ 0 := by
+  rw [← norm_ne_zero_iff, Multipliable.norm_tprod]
+  · rw [ne_eq, ← Real.rexp_tsum_eq_tprod (f := fun n => (‖1 + f n‖)) (by intro i; simp [hf i])
+      (Real.summable_log_norm_of_summable_norm hu)]
+    simp [Real.exp_ne_zero]
+  · exact multipliable_one_add_of_summable hu
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Log/Summable.lean]: Golfed version (needs the micro-PR #28756 I just opened):
```suggestion
lemma Summable.summable_log_norm_one_add (hu : Summable fun n ↦ ‖f n‖) :
    Summable fun i ↦ Real.log ‖1 + f i‖ := by
  suffices Summable (‖1 + f ·‖ - 1) from
    (Real.summable_log_one_add_of_summable this).congr (by simp)
  refine .of_norm (hu.of_nonneg_of_le (fun i ↦ by positivity) fun i ↦ ?_)
  simp only [Real.norm_eq_abs, abs_le]
  constructor
  · simpa using norm_add_le (1 + f i) (-f i)
  · simpa [add_comm] using norm_add_le (f i) 1

lemma tprod_one_add_ne_zero_of_summable [CompleteSpace R] [NormMulClass R]
    (hf : ∀ i, 1 + f i ≠ 0)
    (hu : Summable (‖f ·‖)) : ∏' i : ι, (1 + f i) ≠ 0 := by
  rw [← norm_ne_zero_iff, Multipliable.norm_tprod]
  · rw [← Real.rexp_tsum_eq_tprod (fun i ↦ norm_pos_iff.mpr <| hf i) hu.summable_log_norm_one_add]
    apply Real.exp_ne_zero
  · exact multipliable_one_add_of_summable hu
```

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 20]
```diff
@@ -0,0 +1,140 @@
+/-
+Copyright (c) 2024 Chris Birkbeck. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Chris Birkbeck, David Loeffler
+-/
+
+import Mathlib.Algebra.Order.Ring.Star
+import Mathlib.Analysis.CStarAlgebra.Classes
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]: These two imports aren't used (not sure why `shake` fails to complain)

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 21]
```diff
@@ -0,0 +1,140 @@
...
+
+local notation "ℍₒ" => upperHalfPlaneSet
+
+/-- The q term inside the product defining the eta function. It is defined as
+`eta_q n z = e ^ (2 π i (n + 1) z)`. -/
+noncomputable abbrev ModularForm.eta_q (n : ℕ) (z : ℂ) := (𝕢 1 z) ^ (n + 1)
+
+open ModularForm
+
+lemma eta_q_eq_cexp (n : ℕ) (z : ℂ) : eta_q n z = cexp (2 * π * I * (n + 1) * z) := by
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean:42]: I'd suggest that all lemmas about `eta` should be in the ModularForm namespace, not just the defs.

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 22]
```diff
@@ -0,0 +1,140 @@
...
+lemma eta_q_eq_pow (n : ℕ) (z : ℂ) : eta_q n z = cexp (2 * π * I * z) ^ (n + 1) := by
+  simp [eta_q, Periodic.qParam]
+
+lemma one_sub_eta_q_ne_zero (n : ℕ) {z : ℂ} (hz : z ∈ ℍₒ) : 1 - eta_q n z ≠ 0 := by
+  rw [eta_q_eq_cexp, sub_ne_zero]
+  intro h
+  have := norm_exp_two_pi_I_lt_one ⟨(n + 1) • z, by
+    have : 0 < (n + 1 : ℝ) := by positivity
+    simpa [this] using hz⟩
+  simp [← mul_assoc, ← h] at *
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]:
```suggestion
lemma one_sub_eta_q_ne_zero (n : ℕ) {z : ℂ} (hz : z ∈ ℍₒ) : 1 - eta_q n z ≠ 0 := by
  rw [eta_q_eq_cexp, sub_ne_zero]
  intro h
  simpa [← mul_assoc, ← h] using norm_exp_two_pi_I_lt_one ⟨(n + 1) • z, by
    simpa [(show 0 < (n + 1 : ℝ) by positivity)] using hz⟩
```

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 23]
```diff
@@ -0,0 +1,140 @@
...
+
+
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]:
```suggestion

```

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 24]
```diff
@@ -0,0 +1,140 @@
...
+  refine tprod_one_add_ne_zero_of_summable (f := fun n ↦ -eta_q n z)  ?_ ?_
+  · refine fun i ↦ by simpa using one_sub_eta_q_ne_zero i hz
+  · simpa [eta_q, ← summable_norm_iff] using summable_eta_q ⟨z, hz⟩
+
+lemma logDeriv_one_sub_cexp (r : ℂ) : logDeriv (fun z ↦ 1 - r * cexp z) =
+    fun z ↦ -r * cexp z / (1 - r * cexp z) := by
+  ext z
+  simp [logDeriv]
+
+lemma logDeriv_one_sub_mul_cexp_comp (r : ℂ) {g : ℂ → ℂ} (hg : Differentiable ℂ g) :
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean:92]: Is the `r` parameter useful? You only use `r = 1` in this PR.

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 25]
```diff
@@ -0,0 +1,140 @@
...
+    logDeriv ((fun z ↦ 1 - r * cexp z) ∘ g) =
+    fun z ↦ -r * (deriv g z) * cexp (g z) / (1 - r * cexp (g z)) := by
+  ext y
+  rw [logDeriv_comp (by fun_prop) (hg y), logDeriv_one_sub_cexp]
+  ring
+
+private theorem one_sub_eta_logDeriv_eq (z : ℂ) (i : ℕ) : logDeriv (fun x ↦ 1 - eta_q i x) z =
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]: It does no harm to be consistent between `i` and `n` for a generic integer.

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 26]
```diff
@@ -0,0 +1,140 @@
...
+
+lemma tsum_log_deriv_eta_q (z : ℂ) : ∑' (i : ℕ), logDeriv (fun x ↦ 1 - eta_q i x) z =
+    (2 * π * I) * ∑' n : ℕ, (n + 1) * (-eta_q n z) / (1 - eta_q n z) := by
+  suffices ∑' (i : ℕ), logDeriv (fun x ↦ 1 - eta_q i x) z =
+    ∑' n : ℕ, (2 * ↑π * I * (n + 1)) * (-eta_q n z) / (1 - eta_q n z) by
+    rw [this, ← tsum_mul_left]
+    congr 1
+    ext i
+    ring
+  exact tsum_congr (fun i ↦ one_sub_eta_logDeriv_eq z i)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]: I would use `have`, not `suffices` here in order that the shorter subproof comes first. You can also save some steps with `grind`; and you can omit the type-ascription in summations when there's only one possibility for what the type can be. Hence:
```suggestion
lemma tsum_log_deriv_eta_q (z : ℂ) : ∑' n, logDeriv (fun x ↦ 1 - eta_q n x) z =
    (2 * π * I) * ∑' n, (n + 1) * (-eta_q n z) / (1 - eta_q n z) := by
  have : ∑' i, logDeriv (fun x ↦ 1 - eta_q i x) z =
      ∑' n, (2 * ↑π * I * (n + 1)) * (-eta_q n z) / (1 - eta_q n z) := 
    tsum_congr (fun i ↦ one_sub_eta_logDeriv_eq z i)
  rw [this, ← tsum_mul_left]
  grind
```

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 27]
```diff
@@ -0,0 +1,140 @@
...
+    · filter_upwards with n x hx
+      simpa [eta_q, eta_q_eq_pow n x, eta_q_eq_pow n (⟨z, hK hz⟩ : ℍₒ)] using
+          pow_le_pow_left₀ (by simp [norm_nonneg]) (HB x hx) (n + 1)
+    · simp_rw [eta_q, Periodic.qParam]
+      fun_prop
+  · rw [hasProdUniformlyOn_iff_tendstoUniformlyOn]
+    simpa [not_nonempty_iff_eq_empty.mp hN] using tendstoUniformlyOn_empty
+
+-- Eta is non-vanishing on the upper half plane. -/
+lemma eta_ne_zero_on_UpperHalfPlane {z : ℂ} (hz : z ∈ ℍₒ) : η z ≠ 0 := by
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]:
```suggestion
lemma eta_ne_zero_of_mem_upperHalfPlaneSet {z : ℂ} (hz : z ∈ ℍₒ) : η z ≠ 0 := by
```
(or you could just call it `eta_ne_zero`, since the values outside `upperHalfPlaneSet` are junk anyway).

**Review by loefflerd — APPROVED** [review]
OK, that's it from me. Let's hope the mini-PR I spun off gets merged soon. Probably best I don't use my maintainer-merge powers until that has happened, but I will do so once it has (if I don't, remind me!)

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean (hunk 24 above)
Comment (CBirkbeck) [reply Mathlib/NumberTheory/ModularForms/DedekindEta.lean:92]: You are right that I don't need it here, but since it doesn't really make the proof harder, I thought I may as well have this slightly more general version.

File: Mathlib/Analysis/Complex/UpperHalfPlane/Basic.lean [hunk 28]
```diff
@@ -203,5 +203,16 @@ theorem vadd_im : (x +ᵥ z).im = z.im :=
   zero_add _
 
 end RealAddAction
+section upperHalfPlaneSet
```
Comment (loefflerd) [inline Mathlib/Analysis/Complex/UpperHalfPlane/Basic.lean:207]:
```suggestion

section upperHalfPlaneSet
```

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 29]
```diff
@@ -0,0 +1,135 @@
...
+  simpa [← mul_assoc, ← h] using norm_exp_two_pi_I_lt_one ⟨(n + 1) • z, by
+    simpa [(show 0 < (n + 1 : ℝ) by positivity)] using hz⟩
+
+/-- The eta function, whose value at z is `q^ 1 / 24 * ∏' 1 - q ^ (n + 1)` for `q = e ^ 2 π i z`. -/
+noncomputable def eta (z : ℂ) := 𝕢 24 z * ∏' (n : ℕ), (1 - eta_q n z)
+
+local notation "η" => ModularForm.eta
+
+open ModularForm
+
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]:
```suggestion
```

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 30]
```diff
@@ -0,0 +1,135 @@
...
+lemma one_sub_eta_q_ne_zero (n : ℕ) {z : ℂ} (hz : z ∈ ℍₒ) : 1 - eta_q n z ≠ 0 := by
+  rw [eta_q_eq_cexp, sub_ne_zero]
+  intro h
+  simpa [← mul_assoc, ← h] using norm_exp_two_pi_I_lt_one ⟨(n + 1) • z, by
+    simpa [(show 0 < (n + 1 : ℝ) by positivity)] using hz⟩
+
+/-- The eta function, whose value at z is `q^ 1 / 24 * ∏' 1 - q ^ (n + 1)` for `q = e ^ 2 π i z`. -/
+noncomputable def eta (z : ℂ) := 𝕢 24 z * ∏' (n : ℕ), (1 - eta_q n z)
+
+local notation "η" => ModularForm.eta
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]:
```suggestion
local notation "η" => eta
```

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 31]
```diff
@@ -0,0 +1,135 @@
...
+  simp [eta_q, Periodic.qParam]
+
+lemma one_sub_eta_q_ne_zero (n : ℕ) {z : ℂ} (hz : z ∈ ℍₒ) : 1 - eta_q n z ≠ 0 := by
+  rw [eta_q_eq_cexp, sub_ne_zero]
+  intro h
+  simpa [← mul_assoc, ← h] using norm_exp_two_pi_I_lt_one ⟨(n + 1) • z, by
+    simpa [(show 0 < (n + 1 : ℝ) by positivity)] using hz⟩
+
+/-- The eta function, whose value at z is `q^ 1 / 24 * ∏' 1 - q ^ (n + 1)` for `q = e ^ 2 π i z`. -/
+noncomputable def eta (z : ℂ) := 𝕢 24 z * ∏' (n : ℕ), (1 - eta_q n z)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]:
```suggestion
noncomputable def eta (z : ℂ) := 𝕢 24 z * ∏' n, (1 - eta_q n z)
```

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 32]
```diff
@@ -0,0 +1,135 @@
...
+local notation "η" => ModularForm.eta
+
+open ModularForm
+
+theorem summable_eta_q (z : ℍ) : Summable fun n ↦ ‖-eta_q n z‖ := by
+  simp [eta_q, eta_q_eq_pow, summable_nat_add_iff 1, norm_exp_two_pi_I_lt_one z]
+
+lemma multipliableLocallyUniformlyOn_eta :
+    MultipliableLocallyUniformlyOn (fun n a ↦ 1 - eta_q n a) ℍₒ:= by
+  use fun z => ∏' (n : ℕ), (1 - eta_q n z)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]:
```suggestion
  use fun z ↦ ∏' n, (1 - eta_q n z)
```

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 33]
```diff
@@ -0,0 +1,135 @@
...
+  simp_rw [sub_eq_add_neg]
+  apply hasProdLocallyUniformlyOn_of_forall_compact isOpen_upperHalfPlaneSet
+  intro K hK hcK
+  by_cases hN : K.Nonempty
+  · have hc : ContinuousOn (fun x ↦ ‖cexp (2 * π * I * x)‖) K := by fun_prop
+    obtain ⟨z, hz, hB, HB⟩ := hcK.exists_sSup_image_eq_and_ge hN hc
+    apply (summable_eta_q ⟨z, hK hz⟩).hasProdUniformlyOn_nat_one_add hcK
+    · filter_upwards with n x hx
+      simpa [eta_q, eta_q_eq_pow n x, eta_q_eq_pow n (⟨z, hK hz⟩ : ℍₒ)] using
+          pow_le_pow_left₀ (by simp [norm_nonneg]) (HB x hx) (n + 1)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]: `eta_q_eq_pow` is valid for any complex number so we don't need to make a subtype term; this works:
```suggestion
      simpa [eta_q, eta_q_eq_pow] using pow_le_pow_left₀ (by simp [norm_nonneg]) (HB x hx) _
```

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 34]
```diff
@@ -0,0 +1,135 @@
...
+    DifferentiableAt ℂ eta z := by
+  apply DifferentiableAt.mul (by fun_prop)
+  have hD := (MultipliableLocallyUniformlyOn.hasProdLocallyUniformlyOn
+    multipliableLocallyUniformlyOn_eta).tendstoLocallyUniformlyOn_finsetRange.differentiableOn ?_
+    isOpen_upperHalfPlaneSet
+  · exact (hD z hz).differentiableAt (isOpen_upperHalfPlaneSet.mem_nhds hz)
+  · filter_upwards with b y
+    apply (DifferentiableOn.finset_prod (u := Finset.range b) (f := fun i x ↦ 1 - eta_q i x)
+      (by fun_prop)).congr
+    simp
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]: 🏌️‍♂️ 
```suggestion
theorem differentiableAt_eta_of_mem_upperHalfPlaneSet {z : ℂ} (hz : z ∈ ℍₒ) :
    DifferentiableAt ℂ eta z := by
  apply DifferentiableAt.mul (by fun_prop)
  refine (multipliableLocallyUniformlyOn_eta.hasProdLocallyUniformlyOn.differentiableOn ?_
    isOpen_upperHalfPlaneSet z hz).differentiableAt (isOpen_upperHalfPlaneSet.mem_nhds hz)
  filter_upwards with b
  simpa [Finset.prod_fn] using DifferentiableOn.finset_prod (by fun_prop)
```

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 35]
```diff
@@ -0,0 +1,135 @@
...
+    apply (summable_eta_q ⟨z, hK hz⟩).hasProdUniformlyOn_nat_one_add hcK
+    · filter_upwards with n x hx
+      simpa [eta_q, eta_q_eq_pow n x, eta_q_eq_pow n (⟨z, hK hz⟩ : ℍₒ)] using
+          pow_le_pow_left₀ (by simp [norm_nonneg]) (HB x hx) (n + 1)
+    · simp_rw [eta_q, Periodic.qParam]
+      fun_prop
+  · rw [hasProdUniformlyOn_iff_tendstoUniformlyOn]
+    simpa [not_nonempty_iff_eq_empty.mp hN] using tendstoUniformlyOn_empty
+
+-- Eta is non-vanishing on the upper half plane. -/
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]:
```suggestion
/-- Eta is non-vanishing on the upper half plane. -/
```

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 36]
```diff
@@ -0,0 +1,135 @@
...
+lemma eta_ne_zero {z : ℂ} (hz : z ∈ ℍₒ) : η z ≠ 0 := by
+  apply mul_ne_zero (Periodic.qParam_ne_zero z)
+  simp only [eta_q, ne_eq]
+  refine tprod_one_add_ne_zero_of_summable (f := fun n ↦ -eta_q n z)  ?_ ?_
+  · refine fun i ↦ by simpa using one_sub_eta_q_ne_zero i hz
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]: I don't entirely understand why `refine` is a separate tactic from `exact` rather than an extension of its functionality, but since they aren't the same, I think the convention is to use `exact` as a finishing tactic:
```suggestion
  · exact fun i ↦ by simpa using one_sub_eta_q_ne_zero i hz
```

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 37]
```diff
@@ -0,0 +1,135 @@
...
+    · simp_rw [eta_q, Periodic.qParam]
+      fun_prop
+  · rw [hasProdUniformlyOn_iff_tendstoUniformlyOn]
+    simpa [not_nonempty_iff_eq_empty.mp hN] using tendstoUniformlyOn_empty
+
+-- Eta is non-vanishing on the upper half plane. -/
+lemma eta_ne_zero {z : ℂ} (hz : z ∈ ℍₒ) : η z ≠ 0 := by
+  apply mul_ne_zero (Periodic.qParam_ne_zero z)
+  simp only [eta_q, ne_eq]
+  refine tprod_one_add_ne_zero_of_summable (f := fun n ↦ -eta_q n z)  ?_ ?_
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]: both of these simps are defeq anyway so `refine` sees right through them:
```suggestion
  refine tprod_one_add_ne_zero_of_summable (f := fun n ↦ -eta_q n z)  ?_ ?_
```

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 38]
```diff
@@ -0,0 +1,135 @@
...
+  simp_rw [eta_q_eq_cexp, h2, logDeriv_one_sub_mul_cexp_comp 1
+    (g := fun x ↦ (2 * π * I * (n + 1) * x)) (by fun_prop), h3]
+  simp
+
+lemma tsum_log_deriv_eta_q (z : ℂ) : ∑' n, logDeriv (fun x ↦ 1 - eta_q n x) z =
+    (2 * π * I) * ∑' n, (n + 1) * (-eta_q n z) / (1 - eta_q n z) := by
+  have : ∑' i, logDeriv (fun x ↦ 1 - eta_q i x) z =
+      ∑' n, (2 * ↑π * I * (n + 1)) * (-eta_q n z) / (1 - eta_q n z) :=
+    tsum_congr (fun i ↦ one_sub_eta_logDeriv_eq z i)
+  rw [this, ← tsum_mul_left]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]:
```suggestion
  rw [tsum_congr (one_sub_eta_logDeriv_eq z), ← tsum_mul_left]
  grind
```

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 39]
```diff
@@ -0,0 +1,135 @@
...
+      ((fun z ↦ 1 - 1 * cexp z) ∘ fun x ↦ 2 * ↑π * I * (n + 1) * x) := by aesop
+  have h3 : deriv (fun x : ℂ ↦ (2 * π * I * (n + 1) * x)) =
+      fun _ ↦ 2 * π * I * (n + 1) := by
+    ext y
+    simpa using deriv_const_mul (2 * π * I * (n + 1)) (d := fun (x : ℂ) ↦ x) (x := y)
+  simp_rw [eta_q_eq_cexp, h2, logDeriv_one_sub_mul_cexp_comp 1
+    (g := fun x ↦ (2 * π * I * (n + 1) * x)) (by fun_prop), h3]
+  simp
+
+lemma tsum_log_deriv_eta_q (z : ℂ) : ∑' n, logDeriv (fun x ↦ 1 - eta_q n x) z =
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]:
```suggestion
lemma tsum_logDeriv_eta_q (z : ℂ) : ∑' n, logDeriv (fun x ↦ 1 - eta_q n x) z =
```

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 40]
```diff
@@ -0,0 +1,135 @@
...
+
+lemma logDeriv_one_sub_mul_cexp_comp (r : ℂ) {g : ℂ → ℂ} (hg : Differentiable ℂ g) :
+    logDeriv ((fun z ↦ 1 - r * cexp z) ∘ g) =
+    fun z ↦ -r * (deriv g z) * cexp (g z) / (1 - r * cexp (g z)) := by
+  ext y
+  rw [logDeriv_comp (by fun_prop) (hg y), logDeriv_one_sub_cexp]
+  ring
+
+private theorem one_sub_eta_logDeriv_eq (z : ℂ) (n : ℕ) : logDeriv (fun x ↦ 1 - eta_q n x) z =
+    2 * π * I * (n + 1) * -eta_q n z / (1 - eta_q n z) := by
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]: formatting nit:
```suggestion
private theorem one_sub_eta_logDeriv_eq (z : ℂ) (n : ℕ) : 
    logDeriv (1 - eta_q n ·) z = 2 * π * I * (n + 1) * -eta_q n z / (1 - eta_q n z) := by
```

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 41]
```diff
@@ -0,0 +1,135 @@
...
+
+## Main definitions
+
+* We define the Dedekind eta function as the infinite product
+`η(z) = q ^ 1/24 * ∏' (1 - q ^ (n + 1))` where `q = e ^ (2πiz)` and `z` is in the upper half-plane.
+The product is taken over all non-negative integers `n`. We then show it is non-vanishing and
+differentiable on the upper half-plane.
+
+## References
+* [F. Diamond and J. Shurman, *A First Course in Modular Forms*][diamondshurman2005]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]:
```suggestion
* [F. Diamond and J. Shurman, *A First Course in Modular Forms*][diamondshurman2005], section 1.2
```

**Review by loefflerd — APPROVED** [review]
I found some more trivial fixes (mostly just formatting and golfs). Feel free to fix or ignore as you prefer.

maintainer delegate

**Comment by loefflerd** [comment]
Maintainers: I confirm all my comments are dealt with, so my "**maintainer delegate**" recommendation can become a "**maintainer merge**".

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
